US04333942
1-Methyl-4-phenoxy-4-phenylpiperidine N-oxide
1.5 g of 1-methyl-4-phenoxy-4-phenylpiperidine are dissolved in 4 ml of methanol, and 1.7 g of 80% strength m-chloroperbenzoic acid, dissolved in methanol, are added slowly thereto while cooling with ice. After stirring the mixture at room temperature for 3 hours, the solvent is stripped off and the residue is partitioned between concentrated sodium hydroxide solution and chloroform. The crude N-oxide hydrate (which remains after drying the chloroform phase and evaporating off the solvent) is taken up in a little methanol, and the equivalent amount of methanolic fumaric acid is added. 1 g of a colorless precipitate is obtained.

reactant | 1-methyl-4-phenoxy-4-phenylpiperidine | 1.5 g | CN1CCC(CC1)(C1=CC=CC=C1)OC1=CC=CC=C1 | C18H21NO
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methanol | 4 ml | CO | CH4O
product | 1-Methyl-4-phenoxy-4-phenylpiperidine N-oxide | 1 g | C[N+]1(CCC(CC1)(C1=CC=CC=C1)OC1=CC=CC=C1)[O-] | C18H21NO2
